US08217027B2
Preparation of (S)-1-Phenoxy-propan-2-ol
To the appropriately substituted amine in a suitable organic solvent (preferably acetonitrile) and water mixture (about 1:1 to 8:1 ratio, preferably 4:1 ratio) is added N-(Benzyloxycarbonyloxy)succinimide (preferably 1 equivalent) followed by potassium carbonate (preferably 1 equivalent). The reaction mixture is stirred at ambient temperature for a period of 1-4 hours (preferably 1 hour). The solvent is then removed and the remaining aqueous slurry is taken up in water and organic solvent (preferably ethyl acetate). The organic layer is washed with brine, dried over MgSO4 and concentrated in vacuo. The resulting crude can be purified by column chromatography to give the desired product.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | N-(Benzyloxycarbonyloxy)succinimide | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
product | (S)-1-Phenoxy-propan-2-ol | O(C1=CC=CC=C1)C[C@H](C)O | C9H12O2
